US07449467B2
(4R)-N-[(1R,3S)-3-(Ethoxymethyl)-3-(4-[4-(trifluoromethyl)pyridin-2-yl]piperazin-1-ylcarbonyl)cyclopentyl]-3-methyltetrahydro-2H-pyran-4-amine
To a solution of (1R,3S)-3-(ethoxymethyl)-3-(4-[4-(trifluoromethyl)pyridin-2-yl]piperazin-1-ylcarbonyl)cyclopentanamine dihydrochloride (100.0 mg, 0.211 mmol), 3-methyltetrahydro-4H-pyran-4-one (72.3 mg, 0.634 mmol) and triethylamine (0.118 mL, 0.845 mmol) in dry methylene chloride (5 mL) was added sodium triacetoxyborohydride (134.3 mg, 0.634 mmol). After being stirred at room temperature under N2 overnight, the reaction was quenched with aqueous NaHCO3 and diluted with methylene chloride. The organic layer was separated and the aqueous layer was extracted with methylene chloride three times. The organics were combined, dried over MgSO4, filtered, purified by silica gel Combi-Flash system (gradient, 0 to 40% MeOH in EtOAc, 12 gram column) to give the desired product (34 mg, 34%). MS calculated for C25H37F3N4O3: (M+H) 499.3; found 499.3.

reactant | (1R,3S)-3-(ethoxymethyl)-3-(4-[4-(trifluoromethyl)pyridin-2-yl]piperazin-1-ylcarbonyl)cyclopentanamine dihydrochloride | 0.211 mmol, 100.0 mg | Cl.Cl.C(C)OC[C@]1(C[C@@H](CC1)N)C(=O)N1CCN(CC1)C1=NC=CC(=C1)C(F)(F)F
reactant | 3-methyltetrahydro-4H-pyran-4-one | 0.634 mmol, 72.3 mg | CC1COCCC1=O | C6H10O2
reactant | triethylamine | 0.845 mmol, 0.118 mL | C(C)N(CC)CC | C6H15N
reactant | sodium triacetoxyborohydride | 0.634 mmol, 134.3 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | methylene chloride | 5 mL | C(Cl)Cl | CH2Cl2
product | (4R)-N-[(1R,3S)-3-(Ethoxymethyl)-3-(4-[4-(trifluoromethyl)pyridin-2-yl]piperazin-1-ylcarbonyl)cyclopentyl]-3-methyltetrahydro-2H-pyran-4-amine | 34 mg, 34% | C(C)OC[C@]1(C[C@@H](CC1)N[C@H]1C(COCC1)C)C(=O)N1CCN(CC1)C1=NC=CC(=C1)C(F)(F)F | C25H37F3N4O3
